US07842710B2
In a 250 ml three-necked flask equipped with a stirrer, dropping funnel and thermometer, 17.2 g (0.1 mol) 2-nitrobenzylchloride in 20 ml acetonitrile are added dropwise to 10.3 g (0.105 mol) sodium 2-propanethiolate in 75 ml acetonitrile, with cooling to maintain the temperature at 30-40° C. The suspension is stirred for another 16 hours at 40-50° C. To complete the reaction, another 6 g sodium 2-propanethiolate (0.061 mol) are added and stirring is continued another 24 hours at 40-50° C. The reaction is cooled and the solvent removed under vacuum. The residue is dissolved in methyl tert-butyl ether, washed and dried over sodium sulfate. The sodium sulfate is removed by filtration, and the solution is concentrated under vacuum. The crude product is purified by column chromatography (silica gel, 50:1 cyclohexane/ethyl acetate). 11.8 g (92% purity by HPLC, 51.2% theoretical yield) of 1-[1-(isopropylthio)methyl]-2-nitrobenzene are obtained as a brown oil [logP (pH 2.3)=3.28].

reactant | 2-nitrobenzylchloride | 0.1 mol, 17.2 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
reactant | sodium 2-propanethiolate | 0.105 mol, 10.3 g | CC(C)[S-].[Na+]
reactant | sodium 2-propanethiolate | 0.061 mol, 6 g | CC(C)[S-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 1-[1-(isopropylthio)methyl]-2-nitrobenzene | 11.8 g | C(C)(C)SCC1=C(C=CC=C1)[N+](=O)[O-] | C10H13NO2S
